US05025031
Sulfamic acid 2-(2,4-dichlorophenoxy)ethyl ester
The title compound was prepared by the procedures of Example 16 from sulfamoyl chloride and 2-(2,4-dichlorophenoxy)ethanol. The viscous oil obtained solidified and was recrystallized from isopropyl ether to give the solid title compound, mp 75°-77° C., in 35% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(2,4-dichlorophenoxy)ethanol | ClC1=C(OCCO)C=CC(=C1)Cl | C8H8Cl2O2
product | Sulfamic acid 2-(2,4-dichlorophenoxy)ethyl ester | ClC1=C(OCCOS(N)(=O)=O)C=CC(=C1)Cl | C8H9Cl2NO4S
